US05852008
Catechol (11.0 g; 0.100 mol) is dissolved in 50 ml of ether and 29 g of freshly-prepared dioxane dibromide (Yanovskaya, Terent'ev and Belsn'kii), J. Gen. Chem. Vol. 22:1594 (1952)) is added slowly as a solution in 50 ml of ether. The organic solution is washed with water (3 times) and dried over MgSO4. The solvent is removed under reduced pressure to yield 4-bromocatechol as a red-brown oil. 1H NMR δ 5.52 (s, 1), 5.70 (s, 1), 6.74 (d, 1, J=8.74 Hz), 6.92 (dd, 1, J=8.3, 2.3 Hz), and 7.01 ppm (d, 1, J=2.6 Hz).

reactant | Catechol | 0.100 mol, 11.0 g | C=1(O)C(O)=CC=CC1 | C6H6O2
reactant | dioxane dibromide | 29 g | [Br-].[Br-].O1CCOCC1
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-bromocatechol | BrC=1C=C(C(O)=CC1)O | C6H5BrO2
